US06596877B2
To a solution of 2,6-dimethoxyphenol (1.0 g, 6.49 mmol) in DMC (10 mL), 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU)(0.99 g, 6.49 mmol) was added and the resulting solution was heated to reflux (90° C.) for 4.5 hours. The reaction was cooled to ambient temperature and diluted with EtOAc (50 mL) and H2O (40 mL). The organic layer was separated and washed in sequence with H2O (40 mL), 2M HCl (2×40 mL), 2M NaOH (2×40 mL) and H2O. The organic layer was dried over Na2SO4, filtered and concentrated under vacuum to give trimethoxybenzene as a solid. The yield of trimethoxybenzene as deteremined by HPLC was 99%.

reactant | 2,6-dimethoxyphenol | 6.49 mmol, 1.0 g | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.49 mmol, 0.99 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 40 mL | O | H2O
product | trimethoxybenzene | COC=1C(=C(C=CC1)OC)OC | C9H12O3
